US08114902B2
(15-2) Synthesis of 2-amino-2-{2-[2′-fluoro-4′-(4-methoxyphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride
N-(5-{2-[2′-Fluoro-4′-(4-methoxyphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide (0.22 g) was dissolved in ethanol (4 mL), concentrated hydrochloric acid (2 mL) was added, and the mixture was stirred at 75° C. for 4 hr. The reaction mixture was concentrated to dryness, and the residual solid was suspended in ethyl acetate and collected by filtration to give the title compound (39 mg) as brown crystals.

reactant | N-(5-{2-[2′-Fluoro-4′-(4-methoxyphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 0.22 g | FC1=C(C=CC(=C1)SC1=CC=C(C=C1)OC)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C29H32FNO4S
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-amino-2-{2-[2′-fluoro-4′-(4-methoxyphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride | 39 mg | Cl.NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)OC)F | InChI=1S/C24H26FNO3S.ClH/c1-29-19-6-8-20(9-7-19)30-21-10-11-22(23(25)14-21)18-4-2-17(3-5-18)12-13-24(26,15-27)16-28;/h2-11,14,27-28H,12-13,15-16,26H2,1H3;1H
